US07977358B2
B] 5-Cyclopropyl-3-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-1H-pyrazole-4-carboxylic acid ethyl ester
In analogy to the procedure described in Example 160B]), 2-cyclopropanecarbonyl-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-oxo-butyric acid ethyl ester and hydrazine.hydrochloride gave the title compound as a light yellow solid (36%). MS: 338.5 (M−H−).

reactant | 2-cyclopropanecarbonyl-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-oxo-butyric acid ethyl ester | C(C)OC(C(C(CN1C(C2=CC=CC=C2C1=O)=O)=O)C(=O)C1CC1)=O | C18H17NO6
reactant | hydrazine.hydrochloride | Cl.NN
product | 5-Cyclopropyl-3-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 36% | C(C)OC(=O)C=1C(=NNC1C1CC1)CN1C(C2=CC=CC=C2C1=O)=O | C18H17N3O4
